US07576099B2
(6-Amino-3H-imidazo[4,5-b]pyridin-2-yl)-methanol
Stannous chloride dihydrate (1.6 g, 0.0070 mol) was added in one portion to a stirred solution of (6-nitro-3H-imidazo[4,5-b]pyridin-2-yl)-methanol (450 mg, 0.0023 mol) in 10% aqueous hydrochloric acid (20 mL) at 50° C. The mixture was stirred at 50° C. for approx. 2 hours then allowed to cool to room temperature. The mixture was cooled further to 0° C. and then basified to ca. pH 8 using conc. NH4OH. The aqueous layer was then filtered through Celite® to remove tin salts, and the filtrate was concentrated under vacuum to leave a crude solid (380 mg; yield assumed quantitative) which was used directly in the next step (amide formation).

reactant | (6-nitro-3H-imidazo[4,5-b]pyridin-2-yl)-methanol | 0.0023 mol, 450 mg | [N+](=O)([O-])C=1C=C2C(=NC1)NC(=N2)CO | C7H6N4O3
reactant | NH4OH | [NH4+].[OH-]
solvent | hydrochloric acid | 20 mL | Cl | ClH
product | (6-Amino-3H-imidazo[4,5-b]pyridin-2-yl)-methanol | NC=1C=C2C(=NC1)NC(=N2)CO | C7H8N4O
